US07598249B2
4-(3-Bromo-benzyl)-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from piperazine-1-carboxylic acid phenylamide and 3-bromobenzaldehyde. 1H NMR (400 MHz, CDCl3): 7.50 (br s, 1H), 7.43-7.17 (m, 7H), 7.05-7.00 (m, 1H), 6.47 .(brs, 1H), 3.52-3.45 (m, 6H), 2.48-2.42 (m, 4H).

reactant | piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | 3-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
product | 4-(3-Bromo-benzyl)-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC(=CC=C1)Br | C18H20BrN3O
